Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PLASTIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
facial skin laxity and desire for facial rejuvenation

 
Major Surgical or Invasive Procedure:
Rhytidectomy

 
History of Present Illness:
___ year old female with desire for facial rejuvenation here 
today for facelift.
 
Past Medical History:
Migraines
ADD
.
PSH:
C-section x 3
bilateral arthroscopy
breast augmentation
eyelid revision
 
Social History:
___
Family History:
Non contributory
 
Physical Exam:
Physical exam as documented in PRS post op check note ___:
vitals reviewed - last sbp charted 150s
NAD
RRR
nonlabored + regular respirations
full and symmetric facial nerve function
no pre or post auricular hematoma evident, steris and headwrap 
in
place. no anterior neck hematoma evident

 
Brief Hospital Course:
The patient was admitted to the plastic surgery service on 
___ and had a facelift.  The patient tolerated the procedure 
well. The patient became very anxious in PACU and then on the 
floor related to her pain medications.  Patient was given Ativan 
x 2 with good effect.
 .
 Neuro: Post-operatively, the patient received IV pain 
medication with good effect and adequate pain control. When 
tolerating oral intake, the patient was transitioned to oral 
pain medications. 
 .
 CV: The patient was stable from a cardiovascular standpoint; 
vital signs were routinely monitored.
 .
 Pulmonary: The patient was stable from a pulmonary standpoint; 
vital signs were routinely monitored.
 .
 GI/GU: Post-operatively, the patient was given IV fluids until 
tolerating oral intake.  Her diet was advanced when appropriate, 
which was tolerated well. She was also started on a bowel 
regimen to encourage bowel movement. Foley was removed on POD#1. 
Intake and output were closely monitored. 
 .
 ID: Post-operatively, the patient was started on IV cefazolin, 
then switched to PO cefadroxil for discharge home. The patient's 
temperature was closely watched for signs of infection. 
 .
 Prophylaxis: The patient received subcutaneous heparin during 
this stay, and was encouraged to get up and ambulate as early as 
possible. 
 .
 At the time of discharge on POD#1, the patient was doing well, 
afebrile with stable vital signs, tolerating a regular diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  Patient with some mild facial swelling, L>R.  CN 
IIV intact.  Headwrap in place.

 
 
Medications on Admission:
Zolpidem Tartrate 5 mg PO QHS as needed for insomnia 
 
Discharge Medications:
1.  Acetaminophen-Caff-Butalbital ___ TAB PO Q6H:PRN Headache 
RX *butalbital-acetaminophen-caff 50 mg-325 mg-40 mg ___ 
tablet(s) by mouth every six (6) hours Disp #*10 Tablet 
Refills:*0 
2.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild  
3.  cefaDROXil 500 mg oral BID 
RX *cefadroxil 500 mg 1 capsule(s) by mouth twice a day Disp 
#*10 Capsule Refills:*0 
4.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*30 Capsule Refills:*0 
5.  LORazepam 0.5 mg PO Q6H:PRN anxiety  
RX *lorazepam 0.5 mg 1 tablet by mouth every six (6) hours Disp 
#*10 Tablet Refills:*0 
6.  Ondansetron 4 mg PO Q8H:PRN nausea 
RX *ondansetron 4 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*10 Tablet Refills:*1 
7.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Severe 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*30 Tablet Refills:*0 
8.  Zolpidem Tartrate 5 mg PO QHS as needed for insomnia   

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
facial skin laxity

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions:
 * Please contact Dr. ___ any serious change in your 
symptoms, or any new symptoms that concern you.
 * Please resume all regular home medications and take any new 
meds as ordered.
 * Do not drive or operate heavy machinery while taking any 
narcotic pain medication. You may have constipation when taking 
narcotic pain medications (oxycodone, percocet, vicodin, 
hydrocodone, dilaudid, etc.); you should continue drinking 
fluids, you may take stool softeners, and should eat foods that 
are high in fiber.
 .
 You may take a bath or shower from the neck down, but do not 
get your incisions or head wrap wet.
 * Keep your dressings in place until your follow up appointment 
with Dr. ___
 * No strenuous activity until instructed by Dr. ___.
 * Finish all of your antibiotics
 * Please call Dr. ___ if you have any acute 
swelling in your neck or face
 * Please report any eye drainage or acute swelling or vision 
changes to Dr. ___.
 * Sleep with head elevated to help with swelling
* do not take any medicines such as Motrin, Aspirin, Advil or 
Ibuprofen etc
 .
 Return to the ER if:
 * If you are vomiting and cannot keep in fluids or your 
medications.
 * If you have shaking chills, fever greater than 101.5 (F) 
degrees or 38 (C) degrees, increased redness, swelling or 
discharge from incision, chest pain, shortness of breath, or 
anything else that is troubling you.

 
Followup Instructions:
___